US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and ethyl chloroformate, there is obtained ethyl N-ethoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as an oil, mass spectrum m/e: M+ 338 (14), 309 (19), 293 (12), 263 (78), 194 (100);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | ethyl N-ethoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C)OC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C20H22N2O3
